US06610351B2
Procedure: To a solution of 1.23 g (0.006 mol) of N-(2-propynyl)carbazole in 19.2 mL of methanol 4.8 mL of water and 0.48 g of NaOH were added while stirring at 4° C. Addition of 6 mL of tetrahydrofurane (THF) to the turbid suspension resulted in a homogeneous solution. Then 1.52 g of crystalline iodine was added portion-wise. After 10 min of stirring the iodine color disappeared and the product started to separate as a dense white precipitate. Over 8 hrs of stirring at room temperature the product was filtered, washed with distilled water and air dried. 1.25 g (Yield 65%) of N-(3-Iodo-2-propynyl)carbazole has been obtained as crystals having m.p. 151-152° C. When applied onto a printing paper and analyzed according to Example 1, the compound gave an intense NIR FT-Raman spectrum in some features similar, but clearly not identical, to that shown in FIG. 1(A) for copper phenylacetylide (exemplary Compound #26 of the invention).

reactant | N-(2-propynyl)carbazole | 0.006 mol, 1.23 g | C(C#C)N1C2=CC=CC=C2C=2C=CC=CC12 | C15H11N
reactant | water | O | H2O
reactant | NaOH | 0.48 g | [OH-].[Na+]
reactant | iodine | 1.52 g | II | I2
solvent | methanol | 19.2 mL | CO | CH4O
solvent | tetrahydrofurane | 6 mL | O1CCCC1 | C4H8O
product | N-(3-Iodo-2-propynyl)carbazole | 1.25 g, Yield 65% | IC#CCN1C2=CC=CC=C2C=2C=CC=CC12 | C15H10IN
